US07939524B2
a) 4-Oxa-tricyclo[5.2.2.02,6]undecane-3,5-dione
4-Oxa-tricyclo[5.2.2.02,6]undec-8-ene-3,5-dione (4.00 g, 22.45 mmol) was dissolved in ethyl acetate (100 mL). 10% Palladium on carbon (400 mg) was added. The flask was degassed and backfilled with hydrogen gas via balloon. The mixture was stirred at 25° C. for 16 h. The mixture was passed through a plug of Celite and the filtrate was concentrated in vacuo to afford a thick clear oil. Purification by flash column chromatography (Teledyne Isco RediSep column; 0 to 30% ethyl acetate in hexanes) afforded the desired product, 4-oxa-tricyclo[5.2.2.02,6]undecane-3,5-dione (2.92 g, 16.20 mmol, 72%), as a white powder. 1H NMR (400 MHz, DMSO-d6) δ: 1.55-1.64 (6H, m), 1.76 (2H, d, J=9.2 Hz), 2.25 (2H, s), 3.11 (2H, s). LC-MS (ESI) calcd for C10H12O3 180.20, found 181.0 [M+H+].

reactant | 4-Oxa-tricyclo[5.2.2.02,6]undec-8-ene-3,5-dione | 22.45 mmol, 4.00 g | C12C3C(OC(C3C(C=C1)CC2)=O)=O | C10H10O3
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on carbon | 400 mg | [Pd] | Pd
product | 4-oxa-tricyclo[5.2.2.02,6]undecane-3,5-dione | 16.20 mmol, 2.92 g, 72% | C12C3C(OC(C3C(CC1)CC2)=O)=O | C10H12O3
